US08258144B2
A solution of 2,6-dichloropurine (189 mg, 1.00 mmol), ethyl nipecotate (0.155 mL, 1.00 mmol) and DIEA (0.300 mL, 1.72 mmol) in CH3CN (5 mL) was stirred at room temperature for 20 h, during which time white solids precipitated out, which was collected to give ethyl 1-(2-chloro-9H-purin-6-yl)piperidine-3-carboxylate (108 mg).

reactant | 2,6-dichloropurine | 1.00 mmol, 189 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | ethyl nipecotate | 1.00 mmol, 0.155 mL | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | DIEA | 1.72 mmol, 0.300 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | ethyl 1-(2-chloro-9H-purin-6-yl)piperidine-3-carboxylate | 108 mg | ClC1=NC(=C2N=CNC2=N1)N1CC(CCC1)C(=O)OCC | C13H16ClN5O2
